US05679696
A stirred solution of potassium permanganate (28 g) in acetone (200 mL) is treated with 2-methoxy-5-formylphenyl benzoate (35.2 g; that is prepared as described in Reference Example 8), and the resulting vigorously reacting mixture is cooled in an ice bath. It is then stirred at room temperature for 3 hours. The mixture is then concentrated and the residue is treated with saturated aqueous sodium metabisulfite solution (300 mL). The resulting white solid is filtered off, washed well with water (200 mL), and dried, to give 3-benzoyloxy-4-methoxy-benzoic acid (29.3 g), m.p. 180°-183° C.

reactant | potassium permanganate | 28 g | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | 2-methoxy-5-formylphenyl benzoate | C(C1=CC=CC=C1)(=O)OC1=C(C=CC(=C1)C=O)OC | C15H12O4
solvent | acetone | 200 mL | CC(=O)C | C3H6O
product | 3-benzoyloxy-4-methoxy-benzoic acid | 29.3 g | C(C1=CC=CC=C1)(=O)OC=1C=C(C(=O)O)C=CC1OC | C15H12O5
